US06962923B2
N-[4-(1,3-benzodioxol-5-yl)-3-methoxy-1H-pyrazol-5-yl]-2-phenyl-1-ethanesulfonamide
(E)-N-[4-(1,3-benzodioxol-5-yl)-1-benzyl-3-methoxy-1H-pyrazol-5-yl]-2-phenyl-1-ethenesulfonamide (1.2 g) (Preparation 57) was dissolved in acetic acid (50 ml). Under an atmosphere of nitrogen, Pearlmann's catalyst (JM type 91, 200 mg) was added and the reaction was stirred for 24 h under 2 bars of hydrogen at 50C. The reaction mixture was filtered on a short pad of Celite® and concentrated under reduced pressure. To the oily residue was added water (dichloromethane (200 ml). The phases were separated, the organic phase washed with a 10% aqueous solution of sodium bicarbonate (2×100 ml). The aqueous phase was then extracted with dichloromethane (2×10 ml), the combined organic fractions were dried over sodium sulfate and concentrated under reduced pressure to yield the title compound as a colourless oil (0.96 g).

reactant | (E)-N-[4-(1,3-benzodioxol-5-yl)-1-benzyl-3-methoxy-1H-pyrazol-5-yl]-2-phenyl-1-ethenesulfonamide | 1.2 g | O1COC2=C1C=CC(=C2)C=2C(=NN(C2NS(=O)(=O)\C=C\C2=CC=CC=C2)CC2=CC=CC=C2)OC | C26H23N3O5S
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | N-[4-(1,3-benzodioxol-5-yl)-3-methoxy-1H-pyrazol-5-yl]-2-phenyl-1-ethanesulfonamide | 0.96 g | O1COC2=C1C=CC(=C2)C=2C(=NNC2NS(=O)(=O)CCC2=CC=CC=C2)OC | C19H19N3O5S
